US05378803
Oikawa et al. (J. Org. Chem., vol. 42, pp. 1213-1216, 1977) describes preparation of methyl 5-(3-indolyl)-2-methyloxazole-3-carboxylate in 33% yield by oxidation of methyl 2-acetamido-3-(3-indolyl)propionate with DDQ in tetrahydrofuran. Use of aqueous tetrahydrofuran gave methyl 2-acetamido-3-(3-indolyl)-3-oxopropionate in 84% yield. Preparation of the corresponding thiazole or imidazole is not described.

reactant | methyl 5-(3-indolyl)-2-methyloxazole-3-carboxylate | N1C=C(C2=CC=CC=C12)C1=CN(C(O1)C)C(=O)OC | C14H14N2O3
reactant | methyl 2-acetamido-3-(3-indolyl)propionate | C(C)(=O)NC(C(=O)OC)CC1=CNC2=CC=CC=C12 | C14H16N2O3
reactant | DDQ | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 2-acetamido-3-(3-indolyl)-3-oxopropionate | 84% yield | C(C)(=O)NC(C(=O)OC)C(=O)C1=CNC2=CC=CC=C12 | C14H14N2O4
